US04337270
In 300 ml of an aqueous alcoholic solution (ethanol 1:water 1) containing 0.4 g of sodium hydroxide is added 3.6 g of N-(3,4-dimethoxycinnamoyl)-4-chloroanthranilic acid and the mixture is warmed to be completely dissolved. The solution is concentrated under a reduced pressure, the residue is dissolved in 200 ml of warmed ethanol and to this solution is added 900 ml of ether. The precipitated crystals are collected by filtration and dried under reduced pressure to obtain 3.2 g of sodium N-(3,4-dimethoxycinnamoyl)-4-chloroanthranilate.

reactant | sodium hydroxide | 0.4 g | [OH-].[Na+]
reactant | N-(3,4-dimethoxycinnamoyl)-4-chloroanthranilic acid | 3.6 g | COC=1C=C(C=CC(=O)NC=2C(C(=O)O)=CC=C(C2)Cl)C=CC1OC | C18H16ClNO5
product | sodium N-(3,4-dimethoxycinnamoyl)-4-chloroanthranilate | 3.2 g | COC=1C=C(C=CC(=O)NC=2C(C(=O)[O-])=CC=C(C2)Cl)C=CC1OC.[Na+] | InChI=1S/C18H16ClNO5.Na/c1-24-15-7-3-11(9-16(15)25-2)4-8-17(21)20-14-10-12(19)5-6-13(14)18(22)23;/h3-10H,1-2H3,(H,20,21)(H,22,23);/q;+1/p-1
